US06020322
Synthesis of N-lysyl-5'-O-palmitoyl-deoxycytidine
14 grams of 5'-O-palmitoyl-deoxycytidine is dissolved in 100 ml dimethylacetamide, 1 molar equivalent of di-tert-butoxycarbonyl-lysine is added, and the mixture is cooled in an ice bath. 1.2 molar equivalents (7.4 g) of dicyclohexylcarbodiimide are added and the mixture is stirred at 4° C. for 90 hours. The precipitate (dicyclohexylurea) is removed by filtration. 100 ml of water is added to the filtrate, followed by 1 liter of ethyl acetate. N4 -(di-N-tert-butoxycarbonyl-lysyl)-5'-O-palmitoyl-deoxycytidine is separated from unreacted reagents by chromatography over silica gel. The t-butoxycarbonyl protecting groups are removed by the standard methods of treatment with an acid, such as trifluoroacetic acid.

reactant | 5'-O-palmitoyl-deoxycytidine | 14 grams | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(N)C=C1)O | C25H43N3O5
reactant | di-tert-butoxycarbonyl-lysine | C(C)(C)(C)OC(=O)N([C@@H](CCCCN)C(=O)O)C(=O)OC(C)(C)C | C16H30N2O6
reactant | dicyclohexylcarbodiimide | 7.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
product | N-lysyl-5'-O-palmitoyl-deoxycytidine | N[C@@H](CCCCN)C(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](COC(CCCCCCCCCCCCCCC)=O)O2)C=C1)=O | C31H55N5O6
